US06518260B1
1.7. 3-[Hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]-2-(phenylmethyl)propanoic acid
To a solution of 1 g (2.02 mmol) of methyl 3-[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl)amino]ethyl]phosphinyl]-2-(phenylmethyl)propanoate in 20 ml of methanol are added 20 ml of 1N sodium hydroxide. After stirring for 10 hours, the medium is acidified with 2N hydrochloric acid, the methanol is then evaporated off and the residue is extracted three times with ethyl acetate. The combined organic phases are washed with water, dried over sodium sulphate and evaporated. 0.97 g of product is recovered (yield=100%).

reactant | methyl 3-[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl)amino]ethyl]phosphinyl]-2-(phenylmethyl)propanoate | 2.02 mmol, 1 g | OP(=O)(CC(C(=O)OC)CC1=CC=CC=C1)C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C27H30NO6P
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 3-[Hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]-2-(phenylmethyl)propanoic acid | yield=100% | OP(=O)(CC(C(=O)O)CC1=CC=CC=C1)C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C26H28NO6P
